US07041687B2
3-Methyl-5-nitro-biphenyl-2-ylamine:
A mixture of 2-bromo-6-methyl-4-nitroaniline (100 mg, 0.43 mmole), phenyl boronic acid (81 mg, 0.66 mmole), 2M Na2CO3(aq) (660 μL), Pd(PPh3)4 (4 mg, 0.0033 mmole) in DME(2.4 mL) containing 1.0:1.3 EtOH/H2O (1.4 mL) was placed in a microwave tube and degassed for 5 minutes. The tube was then capped and irradiated with microwaves (CEM Discover) for 20 minutes at 110° C. The crude reaction mixture was diluted with dichloromethane (10 mL) and washed with saturated NaHCO3 solution (3×20 mL). The organic layer was dried (MgSO4), filtered and concentrated in-vacuo to afford a crude solid, this was then purified further by flash chromatography (100% dichloromethane) to yield the desired pure (91 mg) as a bright yellow solid. 1H NMR (400 MHz, CDCl3) δ 2.25(3H, s), 4.42(2H, br s), 7.39(3H, m), 7.50(2H, m), 7.97(1H, s), 8.12(1H, s). MS (ES+): m/e=229, (ES−): m/e=227.

reactant | 2-bromo-6-methyl-4-nitroaniline | 0.43 mmole, 100 mg | BrC1=C(N)C(=CC(=C1)[N+](=O)[O-])C | C7H7BrN2O2
reactant | phenyl boronic acid | 0.66 mmole, 81 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 660 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH H2O | 1.4 mL | CCO.O
solvent | DME | 2.4 mL | COCCOC | C4H10O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.0033 mmole, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Methyl-5-nitro-biphenyl-2-ylamine | CC=1C(=C(C=C(C1)[N+](=O)[O-])C1=CC=CC=C1)N | C13H12N2O2
